US04870074
To a stirred solution of 4-acetylamino-2-hexyloxybenzoic acid methyl ester (2.6 g) in dimethylformamide (20 ml) is added N-chlorosuccinimide (1.4 g), and the resulting mixture is stirred at 70° C. for 1 hour. The reaction mixture is poured into ice-water and extracted with diethyl ether. The organic layer is washed successively with water and saturated sodium chloride solution, dried over magnesium sulfate, and evaporated to give 4-acetylamino-5-chloro-2-hexyloxybenzoic acid methyl ester (2.1 g) as an oil.

reactant | 4-acetylamino-2-hexyloxybenzoic acid methyl ester | 2.6 g | COC(C1=C(C=C(C=C1)NC(C)=O)OCCCCCC)=O | C16H23NO4
reactant | N-chlorosuccinimide | 1.4 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 4-acetylamino-5-chloro-2-hexyloxybenzoic acid methyl ester | 2.1 g | COC(C1=C(C=C(C(=C1)Cl)NC(C)=O)OCCCCCC)=O | C16H22ClNO4
